* MEMRISTOR SUBCIRCUIT - MODEL pershin.sub

* SUBCIRCUITS:
.subckt memristor pl mn xPARAMS: alpha=0 beta=500000.0 Rinit=5000.0 Roff=10000.0 Ron=1000.0 Vt=4.6 


* SOURCES:
Bx 0 x I='(f1(V(pl,mn))>0) && (V(x)<Roff) ? {f1(V(pl,mn))}: (f1(V(pl,mn))<0) && (V(x)>Ron) ? {f1(V(pl,mn))}: {0}'


* COMPONENTS:
Cx x 0 1 IC={Rinit} 
R0 pl mn 1000000000000.0 
Rmem pl mn r={V(x)} 


* CONTROL COMMANDS:
.func f1(y)={beta*y+0.5*(alpha-beta)*(abs(y+Vt)-abs(y-Vt))}

.ends